US07320972B2
(3R,4S)-3-[(3S)-3-{[tert-Butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one (0.46 g, 0.79 mmol) was stirred at room temperature in dry dichloromethane (15 mL) under a nitrogen atmosphere. N-Phenyltrifluoromethanesulfonimide (0.39 g, 1.09 mmol), triethylamine (0.23 mL, 1.65 mmol) and 4-(dimethylamino)pyridine (0.02 g, 0.2 mmol) were added in succession and the reaction mixture was stirred 2 h at room temperature. The solution was poured into 0.5N aqueous hydrochloric acid (20 mL) and extracted with ethyl acetate. The organic phase was washed successively with water, 10% aqueous sodium bicarbonate, water and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed in vacuo to afford 4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl trifluoromethanesulfonate as a white foam (0.56 g, 100%) by chromatography over silica gel using ethyl acetate-hexane (gradient: 5% ethyl acetate to 50%) 1H NMR (300 MHz, CDCl3) δ 6.9-7.3 (m, 17H), 4.68 (t, J=5.7 Hz, 1H), 4.65 (d, J=2.5 Hz, 1H), 3.0-3.1 (m, 1H), 1.8-2.0 (m, 6H), 0.88 (s, 9H), 0.02 (s, 3H), −0.16 (s, 3H).

reactant | (3R,4S)-3-[(3S)-3-{[tert-Butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one | 0.79 mmol, 0.46 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)O)C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C36H40FNO3Si
reactant | N-Phenyltrifluoromethanesulfonimide | 1.09 mmol, 0.39 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 1.65 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.5N, 20 mL | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.2 mmol, 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl trifluoromethanesulfonate | 0.56 g, 100% | FC(S(=O)(=O)OC=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1)(F)F | C37H39F4NO5SSi
